US04923869
A solution of 1 g of 5-methyl-6-[2-(5-nitro-2-furyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one in 30 ml of methanol is hydrogenated to completion on 0.2 g of 5% Pd-C at 20° and under 1 bar. The mixture is filtered, the filtrate is evaporated, and 5-methyl-6-[2-(5-amino-2-furyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one is obtained.

reactant | 5-methyl-6-[2-(5-nitro-2-furyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one | 1 g | CC1CC(NN=C1C1=CC2=C(N=C(N2)C=2OC(=CC2)[N+](=O)[O-])C=C1)=O | C16H13N5O4
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd-C | 0.2 g | [Pd] | Pd
product | 5-methyl-6-[2-(5-amino-2-furyl)-5-benzimidazolyl]-4,5-dihydropyridazin-3-one | CC1CC(NN=C1C1=CC2=C(N=C(N2)C=2OC(=CC2)N)C=C1)=O | C16H15N5O2
